US07582626B2
c) (1R,2S)-2-Benzyloxycarbonylamino-cyclohexanecarboxylic acid methyl ester
(1S,2R)-Cyclohexane-1,2-dicarboxylic acid monomethyl ester (5.41 g, 29.1 mmol) was dissolved in anhydrous tetrahydrofuran (47 mL). The flask was degassed and backfilled with nitrogen and the mixture was cooled to −20° C. Triethylamine (12.2 mL, 87.3 mmol) was added followed by the dropwise addition of ethyl chloroformate (5.56 mL, 58.2 mmol) with vigorous stirring. The mixture was stirred at −20° C. for 1 h. Sodium azide (5.67 g, 87.3 mmol) was dissolved in water (35 mL) and added to the reaction mixture at −10° C. The mixture was gradually warmed to 25° C. and was stirred for 2 h. The mixture was poured into water (350 mL) and the product was extracted into ethyl acetate (350 mL). The organic layer was further washed with 1/2 saturated sodium bicarbonate solution (2×100 mL), saturated aqueous brine solution (100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a light yellow oil. The oil was dissolved in anhydrous benzene (35 mL) and heated at reflux while stirring under nitrogen for 2 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a slightly yellow oil. The oil was dissolved in dichloromethane (35 mL) and benzyl alcohol (3.31 mL, 32 mmol) was added followed by triethylamine (8.12 mL, 58.2 mmol). The mixture was heated at reflux under nitrogen for 16 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford an oil. Purification by flash column chromatography (Teledyne Isco RediSep Flash Column; 50% ethyl acetate in hexanes) afforded the desired product, (1R,2S)-2-benzyloxycarbonylamino-cyclohexanecarboxylic acid methyl ester (5.78 g, 19.8 mmol, 68%), as a light yellow oil. LC-MS (ESI) calcd for C16H21NO4 291.15, found 292.2 [M+H+].

reactant | (1S,2R)-Cyclohexane-1,2-dicarboxylic acid monomethyl ester | 29.1 mmol, 5.41 g | COC(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C9H14O4
reactant | Triethylamine | 87.3 mmol, 12.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 58.2 mmol, 5.56 mL | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 87.3 mmol, 5.67 g | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 32 mmol, 3.31 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 58.2 mmol, 8.12 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 47 mL | O1CCCC1 | C4H8O
solvent | water | 35 mL | O | H2O
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | water | 350 mL | O | H2O
product | (1R,2S)-2-benzyloxycarbonylamino-cyclohexanecarboxylic acid methyl ester | 19.8 mmol, 5.78 g, 68% | COC(=O)[C@H]1[C@H](CCCC1)NC(=O)OCC1=CC=CC=C1 | C16H21NO4
